US06235771B1
In THF (57 ml) was dissolved 5-bromo-2-(hydroxymethyl)-1-benzofuran (5.7 g), and to the solution was added at 0° C. 60% sodium hydride (1.4 g). The mixture was stirred at room temperature for 1 hour, and to the mixture was added at 0° C. 1-bromopropane (3.1 ml). The mixture was stirred at 65° C. for 16 hours and cooled to room temperature. The reaction solution was poured into water, and the mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was removed, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=8/1) to give 5-bromo-2-(propoxymethyl)-1-benzofuran (5.0 g).

reactant | 5-bromo-2-(hydroxymethyl)-1-benzofuran | 5.7 g | BrC=1C=CC2=C(C=C(O2)CO)C1 | C9H7BrO2
reactant | sodium hydride | 1.4 g | [H-].[Na+]
reactant | 1-bromopropane | 3.1 ml | BrCCC | C3H7Br
reactant | water | O | H2O
solvent | THF | 57 ml | C1CCOC1 | C4H8O
product | 5-bromo-2-(propoxymethyl)-1-benzofuran | 5.0 g | BrC=1C=CC2=C(C=C(O2)COCCC)C1 | C12H13BrO2
